US07368578B2
A mixture of methyl 3-formylphenylacetate (16.20 g), 2,3-butanedione-2-oxime (8.52 g) and 4N hydrogenchloride-ethyl acetate solution (300 mL) was stirred at room temperature for 2 days. After concentration of the reaction mixture, diethyl ether was added to the residue and the precipitated crystals were collected by filtration. A mixture of the obtained crystal, tetrahydrofuran (300 mL) and thionyl chloride (14.99 g) was heated under reflux for 1 hr. After concentration of the reaction mixture, saturated aqueous sodium hydrogen carbonate was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl [3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)phenyl]acetate as colorless crystals (11.77 g, yield 48%) from a fraction eluted with ethyl acetate-hexane (1:6, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 64-65° C.

reactant | methyl 3-formylphenylacetate | 16.20 g | C(=O)C=1C=C(C=CC1)CC(=O)OC | C10H10O3
reactant | 2,3-butanedione-2-oxime | 8.52 g | CC(C(C)=O)=NO | C4H7NO2
reactant | hydrogenchloride ethyl acetate | 4N, 300 mL | Cl.C(C)(=O)OCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl [3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)phenyl]acetate | 11.77 g, yield 48% | ClCC=1N=C(OC1C)C=1C=C(C=CC1)CC(=O)OCC | C15H16ClNO3
